US07064126B2
b) 3-(1,3-Dithian-2-ylidene)-2,4-pentanedione
To a solution of 2,4-pentanedione (10.5 ml) in dimethylformamide (200 ml) was added potassium carbonate (42.5 g) then carbon disulfide (9.3 ml). To the resulting mixture was added 1,3-dibromopropane, dropwise over 40 min. The mixture was stirred at ambient temperature under a nitrogen atmosphere for 20 hrs. then ice/water (200 ml) was added and the suspension was stirred for 1 hr. The solid was collected by filtration, washed with water and then recrystallised from ethanol to give the sub-title compound as a solid (23.3 g).

reactant | 2,4-pentanedione | 10.5 ml | CC(CC(C)=O)=O | C5H8O2
reactant | potassium carbonate | 42.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon disulfide | 9.3 ml | C(=S)=S | CS2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-(1,3-Dithian-2-ylidene)-2,4-pentanedione | 23.3 g | S1C(SCCC1)=C(C(C)=O)C(C)=O | C9H12O2S2
